US06559155B1
5-(2-Methoxypyrimidin-5-ylmethyl)-2-thiouracil
To an ice cooled solution of potassium t-butoxide (7.83 g, 0.07 mol) in anhydrous THF (60 ml) was added dropwise with stirring under argon over 1 hour to a solution of ethyl 3-(2-methoxypyrimidin-5-yl)propionate (5.87 g, 0.028 mol) and methyl formate (3.6 ml, 0.059 mol) in anhydrous ether (70 ml). After stirring for 16 h, the solvents were evaporated, thiourea (4.25 g, 0.056 mol) and propan-2-ol (80 ml) added and the mixture refluxed for 5 h. The solvent was evaporated and the residue dissolved in water, extracted twice with ether and acidified to pH 4.5 with acetic acid. The solid which precipitated was filtered, washed well with water and dried, yield 5.57 g (80%). 1H-NMR (d6-DMSO) δ3.47 (2H, s), 3.85 (3H, s), 7.43 (1H, s), 8.48 (2H, s), 12.25 (1H, br s), 12.46 (1H, br s); MS (APCI+) found (M+H)=251; C10H10N4O2S requires 250.

reactant | potassium t-butoxide | 0.07 mol, 7.83 g | CC(C)([O-])C.[K+]
reactant | ethyl 3-(2-methoxypyrimidin-5-yl)propionate | 0.028 mol, 5.87 g | COC1=NC=C(C=N1)CCC(=O)OCC | C10H14N2O3
reactant | methyl formate | 0.059 mol, 3.6 ml | C(=O)OC | C2H4O2
reactant | thiourea | 0.056 mol, 4.25 g | NC(=S)N | CH4N2S
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | ether | 70 ml | CCOCC | C4H10O
solvent | propan-2-ol | 80 ml | CC(C)O | C3H8O
product | 5-(2-Methoxypyrimidin-5-ylmethyl)-2-thiouracil | COC1=NC=C(C=N1)CC=1C(NC(NC1)=S)=O | C10H10N4O2S
